US06410562B1
2-(3-Butoxybenzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole (X=OC4H9, Y=H)
A solution of 0.1 g (0.42 mmol) of 2-(3-chlorobenzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole and 56 mg (0.5 mmol) of potassium tert.-butoxide in 2 ml of absolute n-butanol was heated for 3 d. After cooling the mixture was filtered, the filter rinsed with dichloromethane, and the filtrate concentrated under reduced pressure. The title compound was obtained from the residue after column chromatography on silica gel with dichloromethane/ethanolic ammonia gradient.

reactant | 2-(3-chlorobenzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole | 0.42 mmol, 0.1 g | ClC=1C2=C(SC1C=1NCCN1)C=CC=C2 | C11H9ClN2S
reactant | potassium tert.-butoxide | 0.5 mmol, 56 mg | CC(C)([O-])C.[K+]
reactant | n-butanol | 2 ml | C(CCC)O | C4H10O
product | 2-(3-Butoxybenzo[b]thiophen-2-yl)-4,5-dihydro-1H-imidazole | C(CCC)OC=1C2=C(SC1C=1NCCN1)C=CC=C2 | C15H18N2OS
